US04021479
4-(3',4'-Dichloro-4-biphenylyl)-butyric acid
Prepared analogous to Example 1 from 4-(3',4'-dichloro-4-biphenylyl)-4-oxo-butyric acid. Yield: 62% of theory. Melting point of the cyclohexylamine salt: 167°-168° C. (from isopropanol).

reactant | 4-(3',4'-dichloro-4-biphenylyl)-4-oxo-butyric acid | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H12Cl2O3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(3',4'-Dichloro-4-biphenylyl)-butyric acid | Yield: 62% | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)CCCC(=O)O | C16H14Cl2O2
